US04812470
A mixture of N-phenacylacetamide (0.70 g, 4 mmol), 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide (Lawesson's reagent) (0.80 g, 2 mmol) and toluene (10 ml) was heated for 1.5 h at reflux and then evaporated under reduced pressure. The residue was purified by chromatography (10 g silica, dichloromethane) to give 2-methyl-5-phenylthiazole as a yellowish solid (0.11 g, 16%) m.p. 72°-4° C.; δH (CDCl3) 7.85 (1H, S, CH), 7.3-7.7 (5H, m, C6H5), 2.7 (3H, S, CH3).

reactant | N-phenacylacetamide | 4 mmol, 0.70 g | C(C(=O)C1=CC=CC=C1)NC(C)=O | C10H11NO2
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide | 2 mmol, 0.80 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-phenylthiazole | 0.11 g, 16% | CC=1SC(=CN1)C1=CC=CC=C1 | C10H9NS
